US04910212
A mixture of 4-methoxybenzocyclobutane-1-carbonitrile (16 g) and 4-methoxystyrene (23.5 g) was stirred and heated at 175° for 45 minutes. The mixture was cooled, and purified by flash column chromatography on silica (K60), eluting with a mixture of ethyl acetate and petroleum ether (b.p. 40°-60°), 1:9 by volume, to give 1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)naphthalene-1-carbonitrile, m.p. 127°.

reactant | 4-methoxybenzocyclobutane-1-carbonitrile | 16 g | COC1=CC2=C(C(C2)C#N)C=C1 | C10H9NO
reactant | 4-methoxystyrene | 23.5 g | COC1=CC=C(C=C)C=C1 | C9H10O
product | 1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)naphthalene-1-carbonitrile | COC=1C=C2CCC(C(C2=CC1)C#N)C1=CC=C(C=C1)OC | C19H19NO2
